US05708008
5-ethanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.45 gm (6.5 mMol) 5-ethanesulfonylamino-1H-indole and 1.03 mL (8.4 mMol) 1-methyl-4-piperidone, 1.23 gm (59.7%) of the title compound were recovered as pale orange crystals.

reactant | 5-ethanesulfonylamino-1H-indole | 6.5 mMol, 1.45 gm | C(C)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C10H12N2O2S
reactant | 1-methyl-4-piperidone | 8.4 mMol, 1.03 mL | CN1CCC(CC1)=O | C6H11NO
product | 5-ethanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.23 gm, 59.7% | C(C)S(=O)(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C16H21N3O2S
